US05817674
STEP A: Diethyl 2-butyl-3-oxo-butanedioate
100 ml of ether, then 13.55 ml of diethyl oxalate were added to a solution of sodium ethylate prepared by stirring 2.3 g of sodium and 150 ml of ethanol at 40° C. for one hour. The mixture was refluxed for 15 minutes, cooled down slightly and 50 ml of ethyl caproate were added. The mixture was stirred at reflux for 3 hours and at 30° C. to 35° C. for 16 hours. 50 ml of water were added and the aqueous phase was separated by decanting, washed twice with ether and acidified with 2N hydrochloric acid. Extraction was carried out 3 times with ether and the combined organic phases were washed with water, then with a saturated solution of sodium chloride, dried and evaporated to dryness to obtain 9.5 g of the desired product which was used as is for the following step.

reactant | diethyl oxalate | 13.55 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 2.3 g | [Na] | Na
reactant | ethyl caproate | 50 ml | C(CCCCC)(=O)OCC | C8H16O2
solvent | water | 50 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
product | Diethyl 2-butyl-3-oxo-butanedioate | 9.5 g | C(CCC)C(C(=O)OCC)C(C(=O)OCC)=O | C12H20O5
